US06222034B1
h) 3,4,5,6,7,8-Hexahydro-3-(2-hydroxy)ethyl-7-methylpyrido[4′,3′:4,5]thieno[2,3-d]pyrimidin-4-one
86.4 g (292 mmol) of 2-ethoxymethyleneamino-3-carboethoxy-6-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine in 200 ml of ethanol were mixed with 17.6 ml (292 mmol) of ethanolamine and refluxed for 2 h. The mixture was then concentrated under reduced pressure, and the residue was taken up in 30 ml of ethyl acetate with stirring. The solid which precipitated overnight was filtered off with suction and washed with a little ethyl acetate. After recrystallization from ethanol, 48.0 g (62%) of product with melting point 163-165° C. were isolated.

reactant | 2-ethoxymethyleneamino-3-carboethoxy-6-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 292 mmol, 86.4 g | C(C)OC=NC1=C(C2=C(CN(CC2)C)S1)C(=O)OCC | C14H20N2O3S
reactant | ethanolamine | 292 mmol, 17.6 ml | C(O)CN | C2H7NO
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3,4,5,6,7,8-Hexahydro-3-(2-hydroxy)ethyl-7-methylpyrido[4′,3′:4,5]thieno[2,3-d]pyrimidin-4-one | OCCN1C=NC2=C(C1=O)C1=C(S2)CN(CC1)C | C12H15N3O2S
